US07601868B2
N-(4-bromophenyl)-2-[4-(2-oxopropyl)phenoxy]propanamide
A solution of 2-bromo-N-(4-bromophenyl)propanamide (3.00 g, 10.2 mmol), 1-(4-hydroxyphenyl)acetone (1.54 g, 10.2 mmol) and potassium carbonate (2.83 g, 20.5 mmol) in DMF (20 ml) was stirred at room temperature for 4 hrs. Ethyl acetate was added to the reaction mixture, and the mixture was washed with 1N aqueous sodium hydroxide solution and brine. The solvent was evaporated under reduced pressure, and the obtained crude crystals were recrystallized from isopropyl ether-ethyl acetate to give the title compound (2.75 g).

reactant | 2-bromo-N-(4-bromophenyl)propanamide | 10.2 mmol, 3.00 g | BrC(C(=O)NC1=CC=C(C=C1)Br)C | C9H9Br2NO
reactant | 1-(4-hydroxyphenyl)acetone | 10.2 mmol, 1.54 g | OC1=CC=C(C=C1)CC(=O)C | C9H10O2
reactant | potassium carbonate | 20.5 mmol, 2.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(4-bromophenyl)-2-[4-(2-oxopropyl)phenoxy]propanamide | 2.75 g | BrC1=CC=C(C=C1)NC(C(C)OC1=CC=C(C=C1)CC(C)=O)=O | C18H18BrNO3
